US07868177B2
To a heterogeneous brown mixture of 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.260 g, 0.886 mmol) in 2 mL acetone was added benzoyl isothiocyanate (0.136 ml, 0.975 mmol) dropwise via syringe. The mixture became homogeneous and remained brown. After 10 min, a precip formed. After 16 h, iodomethane (0.0554 ml, 0.886 mmol) was added, and the reaction was heated to 80° C. The mixture became homogeneous. After 3 h, further iodomethane (0.0554 ml, 0.886 mmol) was added and after 1 h at 80° C. and 3 days at ambient temperature, the reaction was adsorbed onto 1.7 g SiO2 and dried. The solid was purified by silica gel chromatography, 40 g, 0-10% MeOH/MC, to give 1-benzoyl-2-methyl-3-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)isothiourea which was used without further purification. MS m/z=471 [M+H]+. Calc'd for C25H22N6O2: 470.5.

reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 0.886 mmol, 0.260 g | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H15N5O
reactant | benzoyl isothiocyanate | 0.975 mmol, 0.136 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | iodomethane | 0.886 mmol, 0.0554 ml | IC | CH3I
reactant | iodomethane | 0.886 mmol, 0.0554 ml | IC | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 1-benzoyl-2-methyl-3-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)isothiourea | C(C1=CC=CC=C1)(=O)NC(SC)=NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C25H22N6O2S
